US06713471B1
The solution of 6-fluoroindol (300 mg, 2.22 mmol), acrylic acid (352 mg, 4.88 mmol) and acetic anhydride (453 mg, 4.44 mmol) in acetic acid (1.1 mL) was heated at 90° C. for 15 h. The reaction mixture was cooled to 20° C. then concentrated in vacuo. The residue was dissolved in 3N NaOH. The solution was filtered to remove insoluble material and the filtrate was acidified with conc. HCl and extracted with CHCl3. The organic solution was dried over MgSO4, filtered and concentrated in vacuo to give 3-(6-fluoroindolyl)propionic acid (240 mg, 52%) as a yellow solid.

reactant | 6-fluoroindol | 2.22 mmol, 300 mg | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | acrylic acid | 4.88 mmol, 352 mg | C(C=C)(=O)O | C3H4O2
reactant | acetic anhydride | 4.44 mmol, 453 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 1.1 mL | C(C)(=O)O | C2H4O2
product | 3-(6-fluoroindolyl)propionic acid | 240 mg, 52% | FC1=CC=C2C=C(NC2=C1)CCC(=O)O | C11H10FNO2
